US05023255
Methyl [1-(3-bromophenyl)hydrazino]acetate
A solution of sodium nitrite (30 g) in water (200 ml) was added dropwise to a solution of N-(3-bromophenyl)glycine methyl ester (94 g) in aqueous acetic acid (850 ml) at 0°. After 1 h, methanol (200 ml) was added and the mixture was cooled to -10°. Zinc dust (351 g) was added portionwise over 2 h during which time the temperature was maintained at -10° to 0°. The mixture was then allowed to warm to room temperature, poured into ethyl acetate (1000 ml) and filtered. The filtrate was poured into water (1000 ml) and the layers were separated. The organic extract was washed with 2N sodium carbonate solution (500 ml) and solid sodium carbonate was added until the solution was basic. The aqueous extract was re-extracted using ethyl acetate (1000 ml) and the combined organic extracts were dried and evaporated. The residue was purified by FCC eluting with System A (1:1) to give the title compound (25.1 g) as an oil, t.l.c. (System A, 1:1) Rf 0.26.

reactant | sodium nitrite | 30 g | N(=O)[O-].[Na+]
reactant | N-(3-bromophenyl)glycine methyl ester | 94 g | COC(CNC1=CC(=CC=C1)Br)=O | C9H10BrNO2
reactant | methanol | 200 ml | CO | CH4O
reactant | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
solvent | acetic acid | 850 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 351 g | [Zn] | Zn
product | Methyl [1-(3-bromophenyl)hydrazino]acetate | 25.1 g | BrC=1C=C(C=CC1)N(N)CC(=O)OC | C9H11BrN2O2
